US09079866B2
2-Bromo-N-ethylbenzenesulfonamide
To a 20 mL vial were added a stirbar, 2-bromobenzene-1-sulfonyl chloride (0.995 g, 3.89 mmol), and THF (5 mL). The vial was then charged with EtNH2 in THF (5 mL, 2.0 M). The mixture was stirred for 24 hours before adding it to a separatory funnel containing 1 N HCl and EtOAc. The layers were mixed thoroughly and then separated. The organic layer was then washed with water followed by sat. NaHCO3, dried over MgSO4, filtered and concentrated to dryness to give the crude product. Subjecting the oil to FCC yielded the title compound (580 mg, 56%). 1H NMR (600 MHz, CDCl3) δ 8.17-8.10 (dd, J=7.8, 1.7, 1H), 7.75-7.69 (dd, J=7.8, 1.2, 1H), 7.48-7.43 (m, 1H), 7.43-7.37 (m, 1H), 5.16-4.91 (t, J=6.7, 1H), 3.06-2.87 (m, 2H), 1.19-1.00 (t, J=7.3, 3H).

reactant | 2-bromobenzene-1-sulfonyl chloride | 3.89 mmol, 0.995 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | EtNH2 | C(C)N | C2H7N
reactant | HCl | 1 N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2.0 M, 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-Bromo-N-ethylbenzenesulfonamide | 580 mg, 56% | BrC1=C(C=CC=C1)S(=O)(=O)NCC | C8H10BrNO2S
